US03975388
a. 3-(3-Chloro-4-methoxybenzoyl)propionic acid
A solution of 3-(3-amino-4-methoxybenzoyl) propionic acid (5 g.) in concentrated hydrochloric acid (25 ml.) was diazotised at 0°C by the addition of a solution of sodium nitrite (1.54 g.) in water (5 ml.). This diazo solution was added with stirring to a solution containing hydrated copper sulphate (6.3 g.) and sodium chloride (5.4 g.) in water (20 ml.) to which had been added a solution containing sodium metabisulphite (1.4 g.) and sodium hyroxide (0.9 g.) in water (10 ml.). The mixture was then heated on the steam bath for 30 minutes when a solid separated. The mixture was cooled, the solid collected and washed with cold water. It was crystallised from methanol to yield the product (4.2 g.), m.p. 187°-189°C.

reactant | 3-(3-amino-4-methoxybenzoyl) propionic acid | 5 g | NC=1C=C(C(=O)CCC(=O)O)C=CC1OC | C11H13NO4
reactant | sodium nitrite | 1.54 g | N(=O)[O-].[Na+]
reactant | sodium chloride | 5.4 g | [Cl-].[Na+]
reactant | sodium metabisulphite | 1.4 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hyroxide | 0.9 g | [OH-].[Na+]
solvent | hydrochloric acid | 25 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 3-(3-Chloro-4-methoxybenzoyl)propionic acid | ClC=1C=C(C(=O)CCC(=O)O)C=CC1OC | C11H11ClO4
